US06498165B1
Step B: 2-[1-(3-Nitrophenyl)ethylamino]-4-[benzimidazol-1-yl]-6-chloropyrimidine
The title compound was prepared from 2-[1-(3-nitrophenyl)ethylamino]-4,6-dichloropyrimidine and benzimidazole according to the procedure described in EXAMPLE 306, Step B.

reactant | 2-[1-(3-nitrophenyl)ethylamino]-4,6-dichloropyrimidine | [N+](=O)([O-])C=1C=C(C=CC1)C(C)NC1=NC(=CC(=N1)Cl)Cl | C12H10Cl2N4O2
reactant | benzimidazole | N1=CNC2=C1C=CC=C2 | C7H6N2
product | 2-[1-(3-Nitrophenyl)ethylamino]-4-[benzimidazol-1-yl]-6-chloropyrimidine | [N+](=O)([O-])C=1C=C(C=CC1)C(C)NC1=NC(=CC(=N1)N1C=NC2=C1C=CC=C2)Cl | C19H15ClN6O2
